US06511974B1
1-Methyl-4-(4-methylphenyl)-1H-pyrazole
A mixture of 2-(4-methylphenyl)-malondialdehyde (3.05 g), absolute ethanol (40 ml), and methylhydrazine (1.09 g) was stirred at room temperature for 18 hours and the volatiles removed at room temperature. Water was added and the mixture was extracted with dichloromethane. After drying over anhydrous sodium sulfate, the solution was filtered through a short column of hydrous sodium magnesium silicate and further eluted with several volumes of dichloromethane. The combined organic phase was concentrated on a steam bath with the gradual addition of hexane until crystallization occurred. After cooling, the crystals were collected by filtration to yield the title compound (2.91 g), m.p. 107-108° C.

reactant | 2-(4-methylphenyl)-malondialdehyde | 3.05 g | CC1=CC=C(C=C1)C(C=O)C=O | C10H10O2
reactant | methylhydrazine | 1.09 g | CNN | CH6N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-Methyl-4-(4-methylphenyl)-1H-pyrazole | 2.91 g | CN1N=CC(=C1)C1=CC=C(C=C1)C | C11H12N2
